### PR TITLE
Equality of sigma types

### PR DESCRIPTION
**Pull request by JasonGross**
This adds a bunch of lemmas about equality of `sig`, `sigT`, `eq`, as well as an `inversion_sigma` tactic that can actually handle equalities of `sig` and `sigT`, unlike `inversion`.  I'm not sure if these theorems are in the right place, but I think they're a useful addition to the standard library.

This is on top of #384, because I need to use `eq_rect_const`.

### CODE REVIEW

**Comment by JasonGross** [comment]
Thanks!

> - `eq_sigT_hprop_iff` is maybe a bit ad hoc to me [...] why an hprop condition rather than a PI condition

Do you mean "why did I call it 'hprop' rather than 'PI' in the name?"?  That's my background in HoTT, but I'm happy to change it if you think `P_PI` is a better hypothesis name than `P_hprop`.  (I'm also fine with `P_isprop` or `isprop_P` or whatever.)  If you were asking about the type itself, the type is exactly proof irrelevance at `P`.  It seems silly to ask for proof irrelevance in general when it's only required at `P`.  I suppose the question is then "Why not specialize it to only require proof irrelevance at the second projection of one of the arguments?"  Indeed, that would be more precise, but it seems asymmetric to me (I have to chose which of the arguments to ask for PI at), and also less easy to turn into a typeclass.

>  and why not `eq_sigT` combined with a lemma showing the irrelevance of the second component

I sometimes want to `rewrite` with the `iff` version of the lemma.  It's more annoying to drop the second component after the fact.

> It looks like you would use an `ex` as a `sig`. Are they reasons to do so?

Maybe if you want it erased, but don't want to rely on axioms?  I stuck them in here mostly to round out the family of lemmas.  I could remove them (or could add lemmas for `sig2` and `sigT2`, if that's preferred.)

> Similarly, `proj2_sig_eq` seems unnatural.

This one is actually pretty useful for me; I frequently want to avoid the use of axioms like UIP, when I can get away with it (which is basically always).  If I drop `proj2_sig_eq`, then I have to always use `sigT`, even when the second component is a `Prop`.  Maybe this is the way to go, but I'm not yet convinced.

> In my work, I also needed η-expanded versions [...] I don't know if you had a similar need?

In backwards reasoning, `eq_sigT` works fine for both the η-expanded and η-unexpanded goals, and I've yet to hit a case where simplifying away the projections from this lemma was a significant performance bottleneck.  I've never needed the η-expanded version in forward reasoning.  I'm happy to add η-expanded versions though, if you think it'd be useful.  Shall I?

> I think that isprop and isset are nowadays standard enough to be in the standard library.

Do you mean as names, or as definitions?  If the latter, I could drop the entire development of truncation levels as typeclasses that are generally automatically inferrable into the standard library from the HoTT library ;)  (But not in this PR)

> I would like to come back on a subject which I already mentioned: I think we should also think again to the names ...

I agree that the names could be better.  I also wonder about unifying definitions.  Perhaps in the version where we turn on primitive projections and universe polymorphism for the standard library (which I'd like to see happen, with the exception of records like `prod`, `sig`, `sigT`, `sig2`, `sigT2`, which are actually more general as template polymorphics than as universe polymorphics), we could also make `and` an alias for `prod`, make `sig` and `sig2` aliases for `sigT` and `sigT2` (or whatever we choose to call them).  Another proposal for projections of sigma types, used in the HoTT library: `pr1` and `pr2`.  But this seems like a discussion that's better suited for a CEP than for a PR on sigma lemmas in the standard library.

**Comment by JasonGross** [comment]
Oops, I forgot to reply to this one:

> - It seems that `eq_rect_sigT` has a pretty complex statement; notations should be used.

The issue is that `eq_rect` gives the motive (`P`) type `forall y : A, Type` rather than `forall y : A, x = y -> Type`.  This lemma has a more natural statement with the more dependent form of `eq_rect`.  See also [bug #5252](https://coq.inria.fr/bugs/show_bug.cgi?id=5252).  If you prefer, I could let Coq infer the annotations, and give it the type:
```coq
 rew [fun a => sigT (Q a)] H in u
 = existT
     (Q y)
     (rew H in projT1 u)
     match H with
       | eq_refl => projT2 u
     end.
```
If `rew` handled this more dependent version of things, I could even do
```coq
rew [fun a => sigT (Q a)] H in u = existT (Q y) (rew H in projT1 u) (rew H in projT2 u)
```
Thoughts?

**Comment by herbelin** [comment]
> If rew handled this more dependent version of things, I could even do
> 
> `rew [fun a => sigT (Q a)] H in u = existT (Q y) (rew H in projT1 u) (rew H in projT2 u)`
> 
> Thoughts?

Yes, it looks good like this (and with a good notation for existT, projT1, projT2, it would be even better).

To deal with a dependent `rew`, I see several approaches. Having `rew e in p` bound to dependent rewriting by default would be difficult at first view. To start with, what would be the default dependent `rew`?

It seems that both of
```coq
forall (A : Type) (x y : A) (P : forall y0 : A, y0 = y -> Type), P y eq_refl -> forall H : x = y, P x H (*1*)
forall (A : Type) (x y : A) (H : x = y) (P : forall y0 : A, x = y0 -> Type), P y H -> P x eq_refl (*2*)
```
and both of
```coq
forall (A : Type) (x y : A) (H : x = y) (P : forall y0 : A, x = y0 -> Type), P x eq_refl -> P y H (*3*)
forall (A : Type) (x y : A) (H : x = y) (P : forall y0 : A, y0 = y -> Type), P x H -> P y eq_refl (*4*)
```
are candidates (and actually, I implemented all 4 so that dependent `rewrite <-` and `rewrite ->` work in both conclusion and hypotheses). For instance, to generalize `Logic.rew_opp_r` which versions would you use? Would there be two lemmas, between 1 and 4 and between 2 and 3.

What is the experience of HoTT with respect to dependent elimination of equality?

Once we know what we want, one can think at various syntaxes for it.

**Comment by herbelin** [comment]
> >        eq_sigT_hprop_iff is maybe a bit ad hoc to me [...] why an hprop condition rather than a PI condition
>
> Do you mean "why did I call it 'hprop' rather than 'PI' in the name?"? That's my background in HoTT, but I'm happy to change it if you think P_PI is a better hypothesis name than P_hprop. (I'm also fine with P_isprop or isprop_P or whatever.) If you were asking about the type itself, the type is exactly proof irrelevance at P. It seems silly to ask for proof irrelevance in general when it's only required at P. I suppose the question is then "Why not specialize it to only require proof irrelevance at the second projection of one of the arguments?" Indeed, that would be more precise, but it seems asymmetric to me (I have to chose which of the arguments to ask for PI at), and also less easy to turn into a typeclass.

I meant the "proof irrelevance in general", but I agree that one might want it to be not too general (while not being to asymmetric either). So, I'm ok.

I think that one of my concern was also that the statement `forall (x : A) (p q : P x), p = q` is long to read as a side condition. If this kind of side condition appears often, it could be worth to have a definition `proof_irrelevant_on (A:Prop) := forall p q : A, p = q`, or maybe even `irrelevant_on (A:Type) := forall p q : A, p = q`. (Is there a standard name in HoTT for this property?)

> >    and why not eq_sigT combined with a lemma showing the irrelevance of the second component

> I sometimes want to rewrite with the iff version of the lemma. It's more annoying to drop the second component after the fact.

OK.

> >    It looks like you would use an ex as a sig. Are they reasons to do so?

> Maybe if you want it erased, but don't want to rely on axioms? I stuck them in here mostly to round out the family of lemmas. I could remove them (or could add lemmas for sig2 and sigT2, if that's preferred.)

I don't know the opinion of others, but why not, for regularity.

> >    Similarly, proj2_sig_eq seems unnatural.

> This one is actually pretty useful for me; I frequently want to avoid the use of axioms like UIP, when I can get away with it (which is basically always). If I drop proj2_sig_eq, then I have to always use sigT, even when the second component is a Prop. Maybe this is the way to go, but I'm not yet convinced.

OK.

> >    In my work, I also needed η-expanded versions [...] I don't know if you had a similar need?

> In backwards reasoning, eq_sigT works fine for both the η-expanded and η-unexpanded goals, and I've yet to hit a case where simplifying away the projections from this lemma was a significant performance bottleneck. I've never needed the η-expanded version in forward reasoning. I'm happy to add η-expanded versions though, if you think it'd be useful. Shall I?

In my work, I only used the versions with `u` expanded into an `exist` and thus no `proj` in the statement. I actually did not think at defining versions based on `proj` and I did not need them.
So, I would then conclude naively from my usage and yours that both are useful, but I'm curious about what others would do (Matthieu, PMP for instance).

> >    I think that isprop and isset are nowadays standard enough to be in the standard library.

> Do you mean as names, or as definitions? If the latter, I could drop the entire development of truncation levels as typeclasses that are generally automatically inferrable into the standard library from the HoTT library ;) (But not in this PR)

As definitions yes.

> >    I would like to come back on a subject which I already mentioned: I think we should also think again to the names ...

> I agree that the names could be better. I also wonder about unifying definitions. Perhaps in the version where we turn on primitive projections and universe polymorphism for the standard library (which I'd like to see happen, with the exception of records like prod, sig, sigT, sig2, sigT2, which are actually more general as template polymorphics than as universe polymorphics), we could also make and an alias for prod, make sig and sig2 aliases for sigT and sigT2 (or whatever we choose to call them). Another proposal for projections of sigma types, used in the HoTT library: pr1 and pr2. But this seems like a discussion that's better suited for a CEP than for a PR on sigma lemmas in the standard library.

Yes.

**Comment by JasonGross** [comment]
> Yes, it looks good like this (and with a good notation for existT, projT1, projT2, it would be even better).

HoTT/HoTT uses `.1` and `.2` and `(_; _)`, whence this becomes:
```coq
rew [fun a => sigT (Q a)] H in u = (rew H in u.1; rew H in u.2)
```

> To start with, what would be the default dependent `rew`?

Shouldn't it be the version of `eq_rect` that you get automatically if you place `eq` in `Type`?  That is, the lemma of type
```coq
forall (A : Type) (x : A) (P : forall a : A, eq x a -> Type), P x (eq_refl x) -> forall (y : A) (e : eq x y), P y e
```
Of course, the other lemmas already in the `Logic.v` can be similarly generalized, but it seems like there is a unique generalization of each one, no?

> What is the experience of HoTT with respect to dependent elimination of equality?

[HoTT/HoTT calls them `transport`](https://github.com/HoTT/HoTT/blob/master/theories/Basics/Overture.v#L297):
```coq
Definition transport {A : Type} (P : A -> Type) {x y : A} (p : x = y) (u : P x) : P y :=
  match p with idpath => u end.

(** See above for the meaning of [simpl nomatch]. *)
Arguments transport {A}%type_scope P%function_scope {x y} p%path_scope u : simpl nomatch.

(** Transport is very common so it is worth introducing a parsing notation for it.  However, we do not use the notation for output because it hides the fibration, and so makes it very hard to read involved transport expression.*)

Notation "p # x" := (transport _ p x) (right associativity, at level 65, only parsing) : path_scope.
```
[and `transportD`](https://github.com/HoTT/HoTT/blob/e1315d5af8178bcd5e61e6d4eba90f0ff74e79de/theories/Basics/PathGroupoids.v#L650):
```coq
Definition transportD {A : Type} (B : A -> Type) (C : forall a:A, B a -> Type)
  {x1 x2 : A} (p : x1 = x2) (y : B x1) (z : C x1 y)
  : C x2 (p # y)
  :=
  match p with idpath => z end.
```

So [in HoTT/HoTT we have](https://github.com/HoTT/HoTT/blob/e1315d5af8178bcd5e61e6d4eba90f0ff74e79de/theories/Types/Sigma.v#L326):
```coq
Definition transport_sigma {A : Type} {B : A -> Type} {C : forall a:A, B a -> Type}
           {x1 x2 : A} (p : x1 = x2) (yz : { y : B x1 & C x1 y })
: transport (fun x => { y : B x & C x y }) p yz
  = (p # yz.1 ; transportD _ _ p yz.1 yz.2).
Proof.
  destruct p.  destruct yz as [y z]. reflexivity.
Defined.
```

Although `transportD` isn't the most general form, it turns out that it's sufficient in most cases.

**Comment by herbelin** [comment]
> >    To start with, what would be the default dependent rew?
> 
> Shouldn't it be the version of eq_rect that you get automatically if you place eq in Type? That is, the lemma of type
> 
> forall (A : Type) (x : A) (P : forall a : A, eq x a -> Type), P x (eq_refl x) -> forall (y : A) (e : eq x y), P y e

That's my problem, if you do that and, e.g., want to generalize the lemma `rew H in rew <- H in a = a` to the dependent case. How do you do? 

> (** Transport is very common so it is worth introducing a parsing notation for it.  However, we do not use the notation for output because it hides the fibration, and so makes it very hard to read involved transport expression.*)
> 
> Notation "p # x" := (transport _ p x) (right associativity, at level 65, only parsing) : path_scope.

Yes, this was a problem for me when trying to find an infix notation similar to the one used in the HoTT library. How to extend it into a notation which mentions the elimination predicate?

>Definition transportD {A : Type} (B : A -> Type) (C : forall a:A, B a -> Type)
>   {x1 x2 : A} (p : x1 = x2) (y : B x1) (z : C x1 y)
>   : C x2 (p # y)
> 
> Definition transport_sigma {A : Type} {B : A -> Type} {C : forall a:A, B a -> Type}
>           {x1 x2 : A} (p : x1 = x2) (yz : { y : B x1 & C x1 y })
> : transport (fun x => { y : B x & C x y }) p yz
>  = (p # yz.1 ; transportD _ _ p yz.1 yz.2).

So, shall I understand that you don't use ` forall (A : Type) (x : A) (P : forall a : A, eq x a -> Type), P x (eq_refl x) -> forall (y : A) (e : eq x y), P y e` above but use instead `transportD`?

BTW, do you have a notation for `transportD` or `transport_sigma`?

**Comment by JasonGross** [comment]
Oops, I typed this out a while ago, and forgot to click "comment".

> (Is there a standard name in HoTT for this property?)

No.  If I were building on the HoTT/HoTT library, I'd take an instance of [`forall x, IsHProp (P x)`](https://github.com/HoTT/HoTT/blob/c54a967526bb6293a0802cb2bed32e0b4dbe5cdc/theories/Basics/Overture.v#L541) and then use [`path_ishprop`](https://github.com/HoTT/HoTT/blob/c54a967526bb6293a0802cb2bed32e0b4dbe5cdc/theories/Basics/Trunc.v#L150):
```coq
(** Any two points in an hprop are connected by a path. *)
Theorem path_ishprop `{H : IsHProp A} : forall x y : A, x = y.
Proof.
  apply H.
Defined.
```

> > (or could add lemmas for sig2 and sigT2, if that's preferred.)
>
> I don't know the opinion of others, but why not, for regularity.

Done.

> > > In my work, I also needed η-expanded versions [...] I don't know if you had a similar need?
> >
> > In backwards reasoning, `eq_sigT` works fine for both the η-expanded and η-unexpanded goals, and I've yet to hit a case where simplifying away the projections from this lemma was a significant performance bottleneck. I've never needed the η-expanded version in forward reasoning. I'm happy to add η-expanded versions though, if you think it'd be useful. Shall I?
> 
> In my work, I only used the versions with `u` expanded into an `exist` and thus no `proj` in the statement. I actually did not think at defining versions based on `proj` and I did not need them.
So, I would then conclude naively from my usage and yours that both are useful, but I'm curious about what others would do (Matthieu, PMP for instance).

@mattam82 @ppedrot thoughts?

> > > I think that isprop and isset are nowadays standard enough to be in the standard library.
> >
> > Do you mean as names, or as definitions?
>
> As definitions yes.

I wanted to make a PR of lemmas that didn't require too many new design choices; there's the question of how we'd want to phrase hProp and hSet things.  Here is [the code in HoTT/HoTT dedicated to defining such things](https://github.com/HoTT/HoTT/blob/c54a967526bb6293a0802cb2bed32e0b4dbe5cdc/theories/Basics/Overture.v#L440-L544):

```coq
(** *** Contractibility *)

(** A space [A] is contractible if there is a point [x : A] and a (pointwise) homotopy connecting the identity on [A] to the constant map at [x].  Thus an element of [contr A] is a pair whose first component is a point [x] and the second component is a pointwise retraction of [A] to [x]. *)

(** We use the [Contr_internal] record so as not to pollute typeclass search; we only do truncation typeclass search on the [IsTrunc] datatype, usually.  We will define a notation [Contr] which is equivalent to [Contr_internal], but picked up by typeclass search.  However, we must make [Contr_internal] a class so that we pick up typeclasses on [center] and [contr].  However, the only typeclass rule we register is the one that turns it into a [Contr]/[IsTrunc].  Unfortunately, this means that declaring an instance like [Instance contr_foo : Contr foo := { center := bar }.] will fail with mismatched instances/contexts.  Instead, we must iota expand such definitions to get around Coq's deficiencies, and write [Instance contr_foo : Contr foo := let x := {| center := bar |} in x.] *)
Class Contr_internal (A : Type) := BuildContr {
  center : A ;
  contr : (forall y : A, center = y)
}.

Arguments center A {_}.

(** *** Truncation levels *)

(** Truncation measures how complicated a type is in terms of higher path spaces. The (-2)-truncated types are the contractible ones, whose homotopy is completely trivial. The (n+1)-truncated types are those whose path spaces are n-truncated.
   Thus, (-1)-truncated means "the space of paths between any two points is contactible". Such a space is necessarily a sub-singleton: any two points are connected by a path which is unique up to homotopy. In other words, (-1)-truncated spaces are truth values (we call them "propositions").
   Next, 0-truncated means "the space of paths between any two points is a sub-singleton". Thus, two points might not have any paths between them, or they have a unique path. Such a space may have many points but it is discrete in the sense that all paths are trivial. We call such spaces "sets".
*)

Inductive trunc_index : Type :=
| minus_two : trunc_index
| trunc_S : trunc_index -> trunc_index.

Scheme trunc_index_ind := Induction for trunc_index Sort Type.
Scheme trunc_index_rec := Minimality for trunc_index Sort Type.

(* See comment above about the tactic [induction]. *)
Definition trunc_index_rect := trunc_index_ind.

(** We will use [Notation] for [trunc_index]es, so define a scope for them here. *)
Bind Scope trunc_scope with trunc_index.
Arguments trunc_S _%trunc_scope.

(** Include the basic numerals, so we don't need to go through the coercion from [nat], and so that we get the right binding with [trunc_scope]. *)
(** Note that putting the negative numbers at level 0 allows us to override the [- _] notation for negative numbers. *)
Notation "n .+1" := (trunc_S n) (at level 2, left associativity, format "n .+1") : trunc_scope.
Notation "n .+1" := (S n) (at level 2, left associativity, format "n .+1") : nat_scope.
Notation "n .+2" := (n.+1.+1)%trunc (at level 2, left associativity, format "n .+2") : trunc_scope.
Notation "n .+2" := (n.+1.+1)%nat (at level 2, left associativity, format "n .+2") : nat_scope.
Notation "n .+3" := (n.+1.+2)%trunc (at level 2, left associativity, format "n .+3") : trunc_scope.
Notation "n .+3" := (n.+1.+2)%nat (at level 2, left associativity, format "n .+3") : nat_scope.
Notation "n .+4" := (n.+1.+3)%trunc (at level 2, left associativity, format "n .+4") : trunc_scope.
Notation "n .+4" := (n.+1.+3)%nat (at level 2, left associativity, format "n .+4") : nat_scope.
Notation "n .+5" := (n.+1.+4)%trunc (at level 2, left associativity, format "n .+5") : trunc_scope.
Notation "n .+5" := (n.+1.+4)%nat (at level 2, left associativity, format "n .+5") : nat_scope.
Local Open Scope trunc_scope.
Notation "-2" := minus_two (at level 0) : trunc_scope.
Notation "-1" := (-2.+1) (at level 0) : trunc_scope.
Notation "0" := (-1.+1) : trunc_scope.
Notation "1" := (0.+1) : trunc_scope.
Notation "2" := (1.+1) : trunc_scope.

Fixpoint nat_to_trunc_index (n : nat) : trunc_index
  := match n with
       | 0%nat => 0
       | S n' => (nat_to_trunc_index n').+1
     end.

Coercion nat_to_trunc_index : nat >-> trunc_index.

Fixpoint IsTrunc_internal (n : trunc_index) (A : Type) : Type :=
  match n with
    | -2 => Contr_internal A
    | n'.+1 => forall (x y : A), IsTrunc_internal n' (x = y)
  end.

Arguments IsTrunc_internal n A : simpl nomatch.

Class IsTrunc (n : trunc_index) (A : Type) : Type :=
  Trunc_is_trunc : IsTrunc_internal n A.

(** We use the priciple that we should always be doing typeclass resolution on truncation of non-equality types.  We try to change the hypotheses and goals so that they never mention something like [IsTrunc n (_ = _)] and instead say [IsTrunc (S n) _].  If you're evil enough that some of your paths [a = b] are n-truncated, but others are not, then you'll have to either reason manually or add some (local) hints with higher priority than the hint below, or generalize your equality type so that it's not a path anymore. *)

Typeclasses Opaque IsTrunc. (* don't auto-unfold [IsTrunc] in typeclass search *)

Arguments IsTrunc : simpl never. (* don't auto-unfold [IsTrunc] with [simpl] *)

Global Instance istrunc_paths (A : Type) n `{H : IsTrunc n.+1 A} (x y : A)
: IsTrunc n (x = y)
  := H x y. (* but do fold [IsTrunc] *)

Hint Extern 0 => progress change IsTrunc_internal with IsTrunc in * : typeclass_instances. (* Also fold [IsTrunc_internal] *)

(** Picking up the [forall x y, IsTrunc n (x = y)] instances in the hypotheses is much tricker.  We could do something evil where we declare an empty typeclass like [IsTruncSimplification] and use the typeclass as a proxy for allowing typeclass machinery to factor nested [forall]s into the [IsTrunc] via backward reasoning on the type of the hypothesis... but, that's rather complicated, so we instead explicitly list out a few common cases.  It should be clear how to extend the pattern. *)
Hint Extern 10 =>
progress match goal with
           | [ H : forall x y : ?T, IsTrunc ?n (x = y) |- _ ]
             => change (IsTrunc n.+1 T) in H
           | [ H : forall (a : ?A) (x y : @?T a), IsTrunc ?n (x = y) |- _ ]
             => change (forall a : A, IsTrunc n.+1 (T a)) in H; cbv beta in H
           | [ H : forall (a : ?A) (b : @?B a) (x y : @?T a b), IsTrunc ?n (x = y) |- _ ]
             => change (forall (a : A) (b : B a), IsTrunc n.+1 (T a b)) in H; cbv beta in H
           | [ H : forall (a : ?A) (b : @?B a) (c : @?C a b) (x y : @?T a b c), IsTrunc ?n (x = y) |- _ ]
             => change (forall (a : A) (b : B a) (c : C a b), IsTrunc n.+1 (T a b c)) in H; cbv beta in H
           | [ H : forall (a : ?A) (b : @?B a) (c : @?C a b) (d : @?D a b c) (x y : @?T a b c d), IsTrunc ?n (x = y) |- _ ]
             => change (forall (a : A) (b : B a) (c : C a b) (d : D a b c), IsTrunc n.+1 (T a b c d)) in H; cbv beta in H
         end.

Notation Contr := (IsTrunc -2).
Notation IsHProp := (IsTrunc -1).
Notation IsHSet := (IsTrunc 0).

Hint Extern 0 => progress change Contr_internal with Contr in * : typeclass_instances.
```

@herbelin do you think it would be better to split off the hProp lemmas into a separate PR?

**Comment by JasonGross** [comment]
> That's my problem, if you do that and, e.g., want to generalize the lemma `rew H in rew <- H in a = a` to the dependent case. How do you do?

Here are two ways of doing `rew <- H in rew H in a = a`:
```coq
Notation "'rew' [ P ] H 'in' H'"
  := (match H as p in (_ = y) return P y p with
      | eq_refl => H'
      end)
       (at level 10, H' at level 10,
        format "'[' 'rew'  [ P ]  '/    ' H  in  '/' H' ']'").
Notation "'rew' <- [ P ] H 'in' H'"
  := (match eq_sym H as p in (_ = y) return P y (eq_trans _ p) with
      | eq_refl => H'
      end)
       (at level 10, H' at level 10,
        format "'[' 'rew'  <-  [ P ]  '/    ' H  in  '/' H' ']'").
Goal forall A (x : A) (P : forall y : A, x = y -> Type) (a : P x eq_refl) y (H : x = y),
    rew [fun H' _ => P x H'] (@eq_trans_sym_inv_r A x y H) in rew <- [P] H in rew [P] H in a = a.
  intros.
  destruct H; reflexivity.
Qed.
Goal forall A (x : A) (P : forall y : A, x = y -> Type) (a : P x eq_refl) y (H : x = y),
    rew <- [P] H in rew [P] H in a = rew [P] (eq_trans H (eq_sym H)) in a.
  intros.
  destruct H; reflexivity.
Qed.
```
I agree, though, it's not obvious how to generalize things nicely in the most general case.

> So, shall I understand that you don't use `forall (A : Type) (x : A) (P : forall a : A, eq x a -> Type), P x (eq_refl x) -> forall (y : A) (e : eq x y), P y e` above but use instead `transportD`?

Right.  There are a few places, though, where we use the general eliminator rather than `transportD`, because `transportD` isn't general enough.

> BTW, do you have a notation for `transportD` or `transport_sigma`?

No, we don't seem to.

**Comment by herbelin** [comment]
This starts to be a lot of open questions.

- About dependent rewrite:

So that both forward and backward dependent rewrite be available, I'm now leaning to provide the 4 version that I was mentioning and which are already used in `rewrite`, depending on whether it is `<-` or `->`, in hyp or in concl. What about

`rew dependent [P] H in a`
`rew dependent <- [P] H in a`
`rew dependent forward [P] H in a`
`rew dep [P] H in a`
`rew dep fwd [P] H in a`
`rewdep [P] H in a`
`rewdepfwd [P] H in a`

**Comment by herbelin** [comment]
This starts to be a lot of open questions...

1) About dependent rewrite, so that both forward and backward dependent rewrite be available, I'm now leaning to provide the 4 versions that I was mentioning and which are already used in `rewrite`, depending on whether it is `<-` or `->`, in hyp or in concl. Here are a couple of attempts for a notation:

`rew dependent [P] H in a`
`dependent rew [P] H in a`
`rew dependent <- [P] H in a`
`rew dependent forward [P] H in a`
`rew dependent forward <- [P] H in a`
`rew dep [P] H in a`
`rew dep <- [P] H in a`
`rew dep fwd [P] H in a`
`rew dep fwd <- [P] H in a`
`rewdep [P] H in a`
`rewdep <- [P] H in a`
`rewdepfwd [P] H in a`
`rewdepfwd <- [P] H in a`
`rew [dep P] H in a` (but no variant without P then)
`rew [P] dep H in a`
`rew [P] dep H fwd in a`
`rew <- [P] dep H fwd in a`
`rew dep H fwd in a`

For instance, would the latters be enough natural and intuitive?

2) About hprop and hset, I shall see with Matthieu and Pierre-Marie what they think on their side.

3) > do you think it would be better to split off the hProp lemmas into a separate PR?

I would personally say no, but I would prefer not to be the only one to give an opinion.

4) Now, there is the question of naming. 

In `Logic.v`, lemmas about `f_equal` are named from `f_equal`. The name `f_equal` is intuitive but somehow ad hoc. So `map` seems to me better, but then we would have to rename the standard library, say `f_equal` into `eq_map`, `f_equal2` into `eq_map2`, and so on. I think I'm ready for that, but we would need to communicate on it so that there is no surprise.

In Logic, no lemmas is named after `eq_rect`, which, as said, has a problem with implicit arguments. Personally, I like the `rew` prefix, which I find intuitive and easy to remind, but it is not so established terminology. It is not that `eq_rect` is established terminology in general, but it seems that `eq_rect` is rather established in the Coq community. Anyway, I would personally vote for using a `rew` prefix for lemmas talking about `eq_rect`, which would be consistent with using the `rew ... in ...` notation in their statement. So this would give e.g. `eq_trans_rew_distr`, `rew_const`, etc. But I agree that this is disputable: what is the name we want to give to the concept of rewriting an equality in general? In any case, looking at the future, I think we should also eventually change its implicit arguments (with a compatibility flag).

About `eq_ex'`, what is the quote for? Independently of the question about the quote, I would use full expansion of `ex`, since it seems very rare that one use `ex` rather than `exists x, P`, and that `exists` is then what we generally see and think at. However, between `exists` and `exist` I don't know which one is the most natural. Is it `exist`? If yes, this would give e.g. `rew_exist` (and otherwise `rew_exists`) for `eq_ex`. Would that be ok?

**Comment by JasonGross** [comment]
It'd be nice to get this (or some reasonable subset of it) into Coq 8.7.  Is there a set of changes I can make to get this accepted?

(@herbelin I can respond to the questions you posed in your last comment, but, as you said, it seems like the beginning of a lot of open questions, and it didn't seem like answering them would make much progress towards this being merged)

**Comment by JasonGross** [comment]
> So this would give e.g. `eq_trans_rew_distr`, `rew_const`, etc. 

Changed

> About `eq_ex'`, what is the quote for?

Removed.  The ' was originally denoting that we were taking in the projections and applying the constructor in the conclusion, rather than taking in the bundled versions and projecting them out.

> Independently of the question about the quote, I would use full expansion of `ex`

I disagree; it seems more uniform to always name the lemmas `eq_<name of type family>` and `rew_<name of type family>`.  If you want to have `rew_exists`, then we should rename `ex` to `exists`.  But renaming in the standard library is a bigger project than this PR.

**Comment by herbelin** [comment]
> >  Independently of the question about the quote, I would use full expansion of ex
> 
> I disagree; it seems more uniform to always name the lemmas eq_<name of type family> and rew_<name of type family>. If you want to have rew_exists, then we should rename ex to exists. But renaming in the standard library is a bigger project than this PR.

Renaming in the standard library is a bigger project than this PR indeed. A quick `grep` gives for instance for_all_exists, unique_existence, forall_exists_unique_domain_coincide, forall_exists_coincide_unique_domain, not_all_not_ex, not_all_ex_not, not_ex_all_not, not_ex_not_all, all_not_not_ex, for_all_exists, ValAdh_un_exists, Zdiv_eucl_exist, Zeven_ex_iff, Zeven_ex, Zodd_ex, Zodd_ex_iff, Zeven_ex, Zodd_ex (plus, referring to sig: ps_atan_exists_01, ps_atan_exists_1, ps_atan_exists_1_opp, RiemannInt_exists, Rsqrt_exists).

So the three forms (depending on whether one wants to be short, to be explicit, to refer to the name, to refer to the notation, to use some form of natural language, etc.) already appear. 

So, using `_ex` in the current PR makes sense to me.

One more question though: is there any advantage in using `ex2 (Q x) (R x)` or `ex (Q x)` in some of the statements, compared to `exists2 y, Q x y & R x y` or `exists y, Q x y`? For instance, would there be problems with η in unification by rather using the notations?

It is trite remark that syntax is a difficult issue. Some standardization is in general relaxing to the mind, makes names easier to remember, makes interaction and communication between each other easier. On the other side, diversity of presentations, exploration of new directions, renewing style, even at the syntactic level, is also important, and the correct balance is often difficult to find. (Let's dream, maybe it is at the level of user interfaces which we will be able to make progress, when names will eventually be algebraic expressions rather than raw strings, interfaces will be able to render them in different formats depending on the taste or cultural ground of the user...)

**Comment by JasonGross** [comment]
> For instance, would there be problems with η in unification by rather using the notations?

Not as far as I'm aware.  I've updated the `ex` theorem statements.  I can update the `sig` and `sigT` ones as well, if you think it prudent.

**Comment by herbelin** [comment]
> Not as far as I'm aware. I've updated the ex theorem statements. I can update the sig and sigT ones as well, if you think it prudent.

Again, I don't know the view of others, but in my view, this would indeed be "cleaner" to do so, thus avoiding to mix two representations for the same concept.

To digress a little, Agda, or even OCaml in a limited way, provide a way to define objects directly by notation. Coq's system of notation seems more complex (notations for binders, recursive notations, ...) but I wonder how we could learn from Agda to follow a similar approach in Coq, thus allowing to fully get rid of the name `ex` and `sig`. Anyway, in the absence of such a mechanism, I would advocate for seeing `ex` and `sig` as temporary low-level names which the notations subsume (even more that a name like `sig` is a bit ambiguous, doesn't it ring more like `signature` than like `sigma`?).

**Comment by Zimmi48** [comment]
> (even more that a name like sig is a bit ambiguous, doesn't it ring more like signature than like sigma?).

Yes, to my ears, it does.

**Comment by JasonGross** [comment]
> > Not as far as I'm aware. I've updated the ex theorem statements. I can update the sig and sigT ones as well, if you think it prudent.
>
> Again, I don't know the view of others, but in my view, this would indeed be "cleaner" to do so, thus avoiding to mix two representations for the same concept.

Done.

**Comment by JasonGross** [comment]
Can someone add the request-8.7-inclusion tag to this?  (@maximedenes?)

**Comment by maximedenes** [comment]
Done, but maybe these labels should go away. There were put when we thought authors of PRs could add them themselves. We tend to consider all PRs when they come nowadays.

**Comment by herbelin** [comment]
How to make progress on this PR? It contains a lot of interesting lemmas and continuing discussing  the details would take a lot of time. Are there any third opinions beside mine and Jason's?

Or, maybe, I could just restart a review step by step, so that we could at least arrive to a clear picture of what are the obvious parts to integrate and what are the parts where more discussions are needed?

Would this protocol be ok?

**Comment by JasonGross** [comment]
@herbelin I would be interested in having a clear picture of which things you think are ready to integrate, which things need (already-known) concrete changes to be ready to integrate, and which things you think need more discussion before they should be integrated.

File: theories/Init/Specif.v [hunk 1]
```diff
@@ -207,6 +207,382 @@ Definition sig2_eta {A P Q} (p : { a : A | P a & Q a })
...
+        match H in (_ = y) return Q y (rew H in projT1 u) with
+          | eq_refl => projT2 u
+        end
+        match H in (_ = y) return R y (rew H in projT1 u) with
+          | eq_refl => projT3 u
+        end.
+  Proof.
+    destruct H, u; reflexivity.
+  Defined.
+End sigT2.
```
Comment (herbelin) [inline theories/Init/Specif.v]: Not a strong opinion on this.

I'm not very fond of `sigT2` in general (why `sigT2` and not `sigT3`, etc? It seems to me more natural to nest `sigT` and `prod`, which is iterable, than to use `sigT2`).

File: theories/Init/Specif.v [hunk 2]
```diff
@@ -207,6 +207,382 @@ Definition sig2_eta {A P Q} (p : { a : A | P a & Q a })
...
+        match H in (_ = y) return Q y (rew H in proj1_sig u) with
+          | eq_refl => proj2_sig u
+        end
+        match H in (_ = y) return R y (rew H in proj1_sig u) with
+          | eq_refl => proj3_sig u
+        end.
+  Proof.
+    destruct H, u; reflexivity.
+  Defined.
+End sig2.
```
Comment (herbelin) [inline theories/Init/Specif.v]: Idem, I'm not a big fan of `sig2` which seems to me to introduce more complications than being helpful.

At the same time, this completes the picture (and maybe you actually made them because I mentioned them in one of my comment?).

File: theories/Init/Specif.v [hunk 3]
```diff
@@ -207,6 +207,382 @@ Definition sig2_eta {A P Q} (p : { a : A | P a & Q a })
...
+    : forall p, Q p.
+  Proof. intro p; specialize (f (projT1_eq p) (projT2_eq p)); destruct u, p; exact f. Defined.
+  Definition eq_sigT_rec {A P u v} (Q : u = v :> { a : A & P a } -> Set) := eq_sigT_rect Q.
+  Definition eq_sigT_ind {A P u v} (Q : u = v :> { a : A & P a } -> Prop) := eq_sigT_rec Q.
+
+  (** Equivalence of equality of [sigT] involving hProps with equality of the first components *)
+  Definition eq_sigT_hprop_iff {A P} (P_hprop : forall (x : A) (p q : P x), p = q)
+             (u v : { a : A & P a })
+    : u = v <-> (projT1 u = projT1 v)
+    := conj (fun p => f_equal (@projT1 _ _) p) (eq_sigT_hprop P_hprop u v).
```
Comment (herbelin) [inline theories/Init/Specif.v]: OK to me.

File: theories/Init/Specif.v [hunk 4]
```diff
@@ -207,6 +207,382 @@ Definition sig2_eta {A P Q} (p : { a : A | P a & Q a })
...
+
+  (** Non-dependent classification of equality of [sigT] *)
+  Definition eq_sigT_nondep {A B : Type} (u v : { a : A & B })
+             (p : projT1 u = projT1 v) (q : projT2 u = projT2 v)
+  : u = v
+    := @eq_sigT _ _ u v p (eq_trans (rew_const _ _) q).
```
Comment (herbelin) [inline theories/Init/Specif.v]: OK to me.

(Side remark: how much can we identify non-dependent sigT and prod? Doesn't Agda have some experience with such an approach?)

File: theories/Init/Logic.v [hunk 5]
```diff
@@ -626,3 +644,96 @@ Qed.
...
+    destruct pq as [p q].
+    destruct q; simpl in *.
+    destruct p; reflexivity.
+  Defined.
+
+  Definition eq_ex {A : Type} {P : A -> Prop} (u1 v1 : A) (u2 : P u1) (v2 : P v1)
+             (p : u1 = v1) (q : rew p in u2 = v2)
+  : ex_intro P u1 u2 = ex_intro P v1 v2
+    := eq_ex_uncurried P (ex_intro _ p q).
+
```
Comment (herbelin) [inline theories/Init/Logic.v]: I needed such definitions for `sigT`, and I'm convinced that they are needed in `sigT`, but I remain unsure of the interest of stating them with `ex`.

You said an interest of using explicitly `ex` over `sigT` is for extraction. I can accept the motivation, but would the difference really matters much (in one case, one would extract into `unit` and in the other case into `unit * unit` which does not look so different, no?)

File: theories/Init/Specif.v [hunk 6]
```diff
@@ -207,6 +207,382 @@ Definition sig2_eta {A P Q} (p : { a : A | P a & Q a })
...
+
+  (** Equality of [sigT] when the property is an hProp *)
+  Definition eq_sigT_hprop {A P} (P_hprop : forall (x : A) (p q : P x), p = q)
+             (u v : { a : A & P a })
+             (p : projT1 u = projT1 v)
+    : u = v
+    := eq_sigT u v p (P_hprop _ _ _).
+
+  (** Equivalence of equality of [sigT] with a [sigT] of equality *)
+  (** We could actually use [IsIso] here, but for simplicity, we
```
Comment (herbelin) [inline theories/Init/Specif.v]: `IsIso` seems to refer to HoTT? I don't see it in the standard library. (3 occurrences)

File: theories/Init/Logic.v [hunk 7]
```diff
@@ -626,3 +644,96 @@ Qed.
...
+                 | eq_refl => u2
+               end
+               match H in (_ = y) return R y (rew H in u1) with
+                 | eq_refl => u3
+               end
+      end.
+  Proof.
+    destruct H, u; reflexivity.
+  Defined.
+End ex2.
```
Comment (herbelin) [inline theories/Init/Logic.v]: Idem.

File: theories/Init/Specif.v [hunk 8]
```diff
@@ -207,6 +207,382 @@ Definition sig2_eta {A P Q} (p : { a : A | P a & Q a })
...
+    split; [ intro; subst; exists eq_refl; reflexivity | apply eq_sigT_uncurried ].
+  Defined.
+
+  (** Induction principle for [@eq (sigT _)] *)
+  Definition eq_sigT_rect {A P} {u v : { a : A & P a }} (Q : u = v -> Type)
+             (f : forall p q, Q (eq_sigT u v p q))
+    : forall p, Q p.
+  Proof. intro p; specialize (f (projT1_eq p) (projT2_eq p)); destruct u, p; exact f. Defined.
+  Definition eq_sigT_rec {A P u v} (Q : u = v :> { a : A & P a } -> Set) := eq_sigT_rect Q.
+  Definition eq_sigT_ind {A P u v} (Q : u = v :> { a : A & P a } -> Prop) := eq_sigT_rec Q.
```
Comment (herbelin) [inline theories/Init/Specif.v]: OK.

**Review by herbelin — COMMENTED** [review]
Hi,

I tried to give new comments, item by item. I did not cover all what we already discussed and all the questions we left open in the previous discussion. It is sometimes a bit redundant with former comments, so my apologies when it is the case.

In any case, thanks a lot for this very interesting contribution.

File: theories/Init/Tactics.v [hunk 9]
```diff
@@ -236,3 +236,66 @@ Tactic Notation "clear" "dependent" hyp(h) :=
...
+  | [ H : _ = exist2 _ _ _ _ _ |- _ ]
+    => induction_sigma2_in_using H @eq_sig2_rect
+  | [ H : _ = existT2 _ _ _ _ _ |- _ ]
+    => induction_sigma2_in_using H @eq_sigT2_rect
+  | [ H : exist2 _ _ _ _ _ = _ |- _ ]
+    => induction_sigma_in_using H @eq_sig2_rect
+  | [ H : existT2 _ _ _ _ _ = _ |- _ ]
+    => induction_sigma_in_using H @eq_sigT2_rect
+  end.
+Ltac inversion_sigma := repeat inversion_sigma_step.
```
Comment (JasonGross) [inline theories/Init/Tactics.v]: >  the ∑-simplification tactic I was wishing for years

Yeah, me too!  I was glad that I found a nice way to write it.

> Maybe the reference to tactic `inversion` in the name is misleading?

I'd be fine with renaming it to `invert_sigma`, but I don't see the confusion you're hinting at.  What's misleading about the reference to `inversion`?

File: theories/Init/Logic.v (hunk 5 above)
Comment (JasonGross) [inline theories/Init/Logic.v]: No, the extraction isn't the same.  If you do `{ x : nat & x = x }`, this extracts (I think) to `nat * unit`, while `exists x : nat, x = x` extracts to `unit` (approximately).  In any case, these are here more to complete the family than because I use them frequently.

File: theories/Init/Specif.v (hunk 2 above)
Comment (JasonGross) [inline theories/Init/Specif.v]: Yeah, I added them based on what you said in https://github.com/coq/coq/pull/385#issuecomment-265530892:
> > > It looks like you would use an ex as a sig. Are they reasons to do so?

> > Maybe if you want it erased, but don't want to rely on axioms? I stuck them in here mostly to round out the family of lemmas. I could remove them (or could add lemmas for sig2 and sigT2, if that's preferred.)

> I don't know the opinion of others, but why not, for regularity.

File: theories/Init/Specif.v [hunk 10]
```diff
@@ -207,6 +207,382 @@ Definition sig2_eta {A P Q} (p : { a : A | P a & Q a })
...
+    = exist
+        (Q y)
+        (rew H in proj1_sig u)
+        match H in (_ = y) return Q y (rew H in proj1_sig u) with
+          | eq_refl => proj2_sig u
+        end.
+  Proof.
+    destruct H, u; reflexivity.
+  Defined.
+End sig.
```
Comment (JasonGross) [inline theories/Init/Specif.v]: Yes, but then you have to tell users that if they want to use `inversion_sigma`, they can only use it on `sigT`.  I would be a fan of someday getting rid of `sig` altogether, but until then, I use `sig` in a bunch of projects, and it seems wrong to convert them to `sigT` just so that I can use `inversion_sigma` on them.

File: theories/Init/Specif.v (hunk 6 above)
Comment (JasonGross) [inline theories/Init/Specif.v]: Fixed

File: theories/Init/Specif.v [hunk 11]
```diff
@@ -207,6 +207,382 @@ Definition sig2_eta {A P Q} (p : { a : A | P a & Q a })
...
+    : u = v
+    := eq_sigT u v p (P_hprop _ _ _).
+
+  (** Equivalence of equality of [sigT] with a [sigT] of equality *)
+  (** We could actually use [IsIso] here, but for simplicity, we
+      don't.  If we wanted to deal with proofs of equality of Σ types
+      in dependent positions, we'd need it. *)
+  Definition eq_sigT_uncurried_iff {A P}
+             (u v : { a : A & P a })
+    : u = v <-> (sigT (fun p : projT1 u = projT1 v => rew p in projT2 u = projT2 v)).
```
Comment (JasonGross) [inline theories/Init/Specif.v]: Oops, I missed this one, thanks.  Fixed now.

File: theories/Init/Specif.v [hunk 12]
```diff
@@ -207,6 +207,382 @@ Definition sig2_eta {A P Q} (p : { a : A | P a & Q a })
...
+  (** Equality of [sigT] is itself a [sigT] *)
+  Definition eq_sigT_uncurried {A : Type} {P : A -> Type} (u v : { a : A & P a })
+             (pq : { p : projT1 u = projT1 v & rew p in projT2 u = projT2 v })
+  : u = v.
+  Proof.
+    destruct u as [u1 u2], v as [v1 v2]; simpl in *.
+    destruct pq as [p q].
+    destruct q; simpl in *.
+    destruct p; reflexivity.
+  Defined.
```
Comment (JasonGross) [inline theories/Init/Specif.v]: Indeed.  I've added such versions, giving them names like `eq_existT_uncurried`.  I tend to do more backwards-chaining than forwards-chaining.

File: theories/Init/Specif.v [hunk 13]
```diff
@@ -207,6 +207,382 @@ Definition sig2_eta {A P Q} (p : { a : A | P a & Q a })
...
+
+  (** Curried version of proving equality of sigma types *)
+  Definition eq_sigT {A : Type} {P : A -> Type} (u v : { a : A & P a })
+             (p : projT1 u = projT1 v) (q : rew p in projT2 u = projT2 v)
+  : u = v
+    := eq_sigT_uncurried u v (existT _ p q).
```
Comment (JasonGross) [inline theories/Init/Specif.v]: If you want to manipulate the proof terms themselves, then you will likely want to use the fact that `eq_sigT_uncurried` is an equivalence.  There is no such similar theorem about `eq_sigT` (at least, it can't be nicely stated).  So you'd want it to be the case that you can unfold `eq_sigT` to get `eq_sigT_uncurried`, and then can use all of the theorems which have nice statements based on the fact that `eq_sigT_uncurried` is a genuine non-dependent function (in its last argument), e.g., lemmas about function composition or equivalence-pushing.  I think this is a more important consideration than the extra ɩ-redex.

I think `eq_sigTc` is the one that will apply in the most situations, i.e., the one I'd most want a printing notation for.  I think `eq_sigTb` is the easiest one to pass arguments to, when you're not just composing functions or equivalences, and the easiest for the unifier, when it applies, so that's probably the one I'd most want a parsing notation for.

File: theories/Init/Specif.v [hunk 14]
```diff
@@ -207,6 +207,382 @@ Definition sig2_eta {A P Q} (p : { a : A | P a & Q a })
...
+
+  (** Classification of transporting across an equality of [sigT]s *)
+  Lemma rew_sigT {A x} {P : A -> Type} (Q : forall a, P a -> Prop) (u : { p : P x & Q x p }) {y} (H : x = y)
+  : rew [fun a => { p : P a & Q a p }] H in u
+    = existT
+        (Q y)
+        (rew H in projT1 u)
+        match H in (_ = y) return Q y (rew H in projT1 u) with
+          | eq_refl => projT2 u
+        end.
```
Comment (JasonGross) [inline theories/Init/Specif.v]: Done

**Comment by JasonGross** [comment]
@herbelin I believe I've addressed all of your questions and concerns for things within the scope of this PR.  Did I miss anything?

**Comment by JasonGross** [comment]
Bump.  I'd like to see this in 8.7.  Is anything still blocking?

**Comment by maximedenes** [comment]
There's no consensus on the `Qed` -> `Defined` move. So this PR will be discussed during the next working group.

**Comment by maximedenes** [comment]
Summary of WG discussion: see #384

**Comment by JasonGross** [comment]
Did you want all of the lemmas here to be `Qed`, or just the ones about `f_equal` / `eq_rect`?

**Comment by JasonGross** [comment]
@maximedenes I cannot make (all) the lemmas here (such as `eq_sig_uncurried`) opaque, because that makes some of the subsequent proofs (like `eq_sig_rect` not typecheck).

**Comment by JasonGross** [comment]
I've rebased and made the `f_equal` theorems and the new theorems from #384 opaque, as well as the ones about `ex` and `ex2`.  I've left the ones about `sig`, `sig2`, `sigT`, `sigT2` transparent; I hope that is satisfactory.

**Comment by JasonGross** [comment]
@maximedenes Can you remove the needs_discussion label, assuming there's no more discussion needed?

**Comment by ejgallego** [comment]
By the way @JasonGross everyone at the WG was really sorry that these PRs are being handled so inefficiently and creating such a large cost for you; our apologies!

**Comment by maximedenes** [comment]
My summary is very incomplete, sorry, I was boarding a plane. I should have mentioned that this PR (and the related ones) raised a long discussion, essentially because we are not sure what a satisfactory solution is w.r.t. to abstraction vs computability.

In the system of today, there is unfortunately no way to make one definition that satisfies both concerns. Writing `Qed` ensures abstraction (so modularity, you can change an opaque proof without breaking things in other places, you know the kernel is not going to diverge by reducing the proof term when it appears in other terms).  Writing `Defined` makes it possible to compute with the definition.

So when deciding what version(s) to include in a library, one has to resolve this tension. @herbelin was advocating for changing some proofs (typically on equality) to make them usable in a context where computability matters, or maybe to duplicate the definitions. @ppedrot and I were more in favor of keeping abstraction as the main concern of the standard library. Others also expressed opinions.

One thing we were wondering was whether we had clearly communicated in the past (before the submission of these PRs) on that concern of abstraction. In particular, were you expecting the `Defined` to be controversial?

**Comment by JasonGross** [comment]
I was not expecting the `Defined ` to be controversial before I submitted the pull requests, for two reasons:
- the proof terms are small, and the kernel is far more likely to loop with them being opaque than them being transparent (because transparent arguments to opaque proofs are terrible and were the bane of my category theory library)
- each of these theorems has a canonical proof (destruct the variables in the order they are passed, then use reflexively), and it's not clear to me what kind of abstraction you could get that would be beneficial (certainly, I'd expect it to be controversial to make more complicated proofs, e.g. about nat, transparent).

I plan to watch the discussion tomorrow, so maybe this will be addressed.

**Comment by JasonGross** [comment]
I've watched the discussion and have thoughts, but I'll keep those for a CEP or gitter or bug report it a separate PR marked controversial, since I'd rather keep this PR as being about the sigma lemmas.

I will note that I'd find `inversion_sigma ` useful even if all the proofs are `Qed`d.  For me, this PR is really about the `inversion_sigma` tactic and the machinery needed to build it.

Regarding this PR, @maximedenes what should we do in light of the fact that it doesn't compile if I make all the proofs `Qed`?  Shall I make the final induction lemmas `Qed`?  Or make everything possible `Qed`d, with a comment about why some lemmas need to be transparent?

**Comment by JasonGross** [comment]
@ppedrot @maximedenes Should I include https://github.com/JasonGross/coq/commit/302b87c677c9a2cbbb21609e1f26c855ee5c66dd ?  Reasons not to: (a) it would force `inversion_sigma` to use opaque lemmas, meaning that anyone who wants a transparent version of that tactic can't use the one in the standard library.  (And `inversion` already generates transparent proofs, and this is kind-of like a post-processor for `inversion`, so it would be nice for it to generate transparent proofs.)  and (b) half of the proofs are required to be transparent just for the proof script to typecheck / be valid, and it doesn't seem like we gain much by making the induction principle opaque.  (And, similarly, `eq_rect` is not opaque.)

**Comment by Zimmi48** [comment]
@ppedrot @JasonGross Never got an answer on whether he can let some lemmas transparent so as to have the later lemmas type-check. If abstraction is the rule and must be applied uniformly even in cases which do not really justify it as in #520, then I suppose the decision here is going to be no.

**Comment by herbelin** [comment]
@JasonGross: late answer to your 25 Apr message: Yes, this is ok to me (or more precisely, I think we can do better with notations - cool notations for `ex_intro`, `ex_intro2`, `match u as ex_intro ... end`, etc. but this would require more time, so this can be left for future work).

About the `Qed` thing, as reported by @maximedenes in his comment from 24 May, there is no such consensus about systematically identifying `Prop` with `Qed`, especially when the `Prop` under consideration is inherently computational, and even more especially when the proofs under consideration are trivial, and that there is in practice no abstraction to hide.

I'm unsure that the question of enforcing a strict `Prop` = `Qed` policy, which is already not enforced in practice, is worth blocking this PR which is one of the oldest one in the pipeline, also knowing that another PR, as well as users, depend on it.
